Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Contractions
 
Major Surgical or Invasive Procedure:
Vaginal delivery
D&C post partum

 
History of Present Illness:
___ G1P0 at ___ with contractions. +ctx, -VB, -LOF. +FM. Had 
outpatient Ob visit today and was 1.5cm dilated and 60% effaced. 
After SVE, she had increased crampy pain. At home, at ___, she 
noticed some mucus with small amount of blood in toilet. No LOF 
or VB before or after that. 

 
Past Medical History:
PNC: 
- ___ ___ by LMP
- Labs A-neg/Rh- s/p rhogam/Abs -/Rub immnue/RPR NR/HBsAg 
neg/HIV
neg/GBS neg
- Screening NIPT LR
- FFS normal
- GLT 84
- Issues
     *hypothyroidism on levothyroxine
     *anxiety on citalopram
 
OBHx:
- G1
 
GynHx:
- Denies history of STIs
 
PMH: 
- hypothyroidism during pregnancy
- anxiety
- migraines
- syncope
- acne

PSH: 
- R bunionectomy
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Exam on Day of Discharge
AVSS
CV: AOx3, NAD
Resp: CTAB
Abd: Soft, non-distended, no rebound or guarding
Ext: non-tender
 
Pertinent Results:
___ 08:10PM   ___ PTT-32.6 ___
___ 08:10PM   ___ 05:25PM   CALCIUM-7.0* PHOSPHATE-2.8 MAGNESIUM-1.4*
___ 05:25PM   WBC-22.1* RBC-2.39* HGB-7.1* HCT-20.4* MCV-85 
MCH-29.7 MCHC-34.8 RDW-13.2 RDWSD-41.0
___ 05:25PM   PLT SMR-VERY LOW PLT COUNT-65*
___ 12:40PM   GLUCOSE-63* UREA N-13 CREAT-1.4* SODIUM-133 
POTASSIUM-3.9 CHLORIDE-104 TOTAL CO2-19* ANION GAP-14
___ 12:40PM   CALCIUM-6.8* PHOSPHATE-2.1* MAGNESIUM-1.3*
___ 11:29AM   WBC-17.8* RBC-2.64*# HGB-7.7*# HCT-23.4*# 
MCV-89 MCH-29.2 MCHC-32.9 RDW-12.5 RDWSD-40.1
___ 11:29AM   PLT COUNT-125*
___ 11:29AM   ___ PTT-37.9* ___
___ 11:29AM   ___ 12:09AM   WBC-13.3*# RBC-3.78* HGB-11.0* HCT-33.0* 
MCV-87# MCH-29.1 MCHC-33.3 RDW-12.2 RDWSD-38.6
___ 12:09AM   PLT COUNT-159
 
Brief Hospital Course:
Ms. ___ is a ___, G1, P1, who had a spontaneous 
vaginal delivery on the morning of ___. Over the course 
of her labor, she had developed chorioamnionitis and was being 
treated with ampicillin and gentamicin. Following her delivery, 
she initially had a small amount of blood loss. However, she was 
then noted to have persistent vaginal bleeding.  Manual 
evacuation was performed initially at the bedside.  However, the 
patient continued to have significant vaginal bleeding due to 
uterine atony and there was a question of possible retained 
placenta and the decision was made to proceed to the operating 
room. She was found to have lower uterine atony and no evidence 
of retained placenta. She had a D&C and a bakri balloon placed 
with subsequently improved bleeding. She also received cytotec, 
Pitocin, hemabate, and methergine. Total blood loss in the labor 
and delivery room was estimated to be 1000 cc. She received 2 
units of packed RBCs with a subsequent hematocrit of 21.4. 

Post-partum she developed ___ likely due to hypovolemia which 
steadily improved. She had her bakri removed with stable 
bleeding. She completed 24 hours of ampicillin, gentamicin, and 
clindamycin.  

On ___ patient was discharged home in stable condition with 
appropriate follow-up scheduled. 
 
Medications on Admission:
- PNV
- levothyroxine 
- citalopram 10mg daily
 
Discharge Medications:
1. Escitalopram Oxalate 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Vaginal bleeding
Post partum hemorrhage

 
Discharge Condition:
Good

 
Discharge Instructions:
Rest. no heavy lifting, exercise, baths for 4 weeks
 
Followup Instructions:
___